US08389508B2
To a solution of 4-bromo-1-[(1-methylethyl)oxy]-2-(trifluoromethyl)benzene (D41) (5.21 g) in dry tetrahydrofuran (THF) (50 mL) was added n-BuLi (12.65 mL) dropwise at −78° C. (maintaining the temperature <−60° C.). The resulting solution was stirred at −78° C. for 30 min before triisopropyl borate (5.13 mL) was added dropwise (<−60° C.). The reaction mixture was allowed to warm to room temperature, then pinacol (0.70 g) and AcOH (2.107 mL) was added and the reaction mixture stirred at room temperature overnight. The reaction was quenched with saturated aqueous NH4Cl, the mixture was diluted with ethyl acetate and washed with saturated aqueous NaHCO3 and brine, the organic phase was dried over sodium sulphate and concentrated. The residue was purified by column chromatography to give 4,4,5,5-tetramethyl-2-[4-[(1-methylethyl)oxy]-3-(trifluoromethyl)phenyl]-1,3,2-dioxaborolane (D42) (5.3 g) as a clear oil. δH (CDCl3, 600 MHz): 1.33 (12H, s), 1.36 (6H, d), 4.69 (1H, m), 6.97 (1H, d), 7.88 (1H, d), 7.99 (1H, s). MS (ES): C15H22BF3O3 requires 330. found 331.2 (M+H+).

reactant | 4-bromo-1-[(1-methylethyl)oxy]-2-(trifluoromethyl)benzene | 5.21 g | BrC1=CC(=C(C=C1)OC(C)C)C(F)(F)F | C10H10BrF3O
reactant | n-BuLi | 12.65 mL | [Li]CCCC
reactant | triisopropyl borate | 5.13 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | pinacol | 0.70 g | OC(C)(C)C(C)(C)O | C6H14O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | AcOH | 2.107 mL | CC(=O)O | C2H4O2
product | 4,4,5,5-tetramethyl-2-[4-[(1-methylethyl)oxy]-3-(trifluoromethyl)phenyl]-1,3,2-dioxaborolane | 5.3 g | CC1(OB(OC1(C)C)C1=CC(=C(C=C1)OC(C)C)C(F)(F)F)C | C16H22BF3O3
